US05068371
Ethyl 3-(2,4-difluorophenyl)propanoate
42.4 g (0.20 mol) of ethyl 3-(2,4-difluorophenyl)-2-propenoate are dissolved in 400 ml of ethanol, 4 g of Raney nickel in ethanol are added, and the mixture is hydrogenated at 20°-25° C. using hydrogen gas. When the theoretical amount of hydrogen has been taken up, the solution is filtered and evaporated on a vacuum rotary evaporator. 41.4 g of a pale brown oil which is subjected to fractional distillation at 120° C. in vacuo (20 mbar) are obtained. 33 g (77% of theory) of a colourless oil are obtained.

reactant | ethyl 3-(2,4-difluorophenyl)-2-propenoate | 0.20 mol, 42.4 g | FC1=C(C=CC(=C1)F)C=CC(=O)OCC | C11H10F2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | Raney nickel | 4 g | [Ni] | Ni
product | Ethyl 3-(2,4-difluorophenyl)propanoate | FC1=C(C=CC(=C1)F)CCC(=O)OCC | C11H12F2O2
